US04761409
1-Ethoxycarbonyloxyethyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-(3-methyl-1,2,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate
1-Bromoethylethyl carbonate (472 mg) was added to a solution of sodium 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-(3-methyl-1,2,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate (536 mg) in dimethylformamide (5 ml) under cooling with ice. The mixture was stirred for 3 hr and then poured into a mixture of ethyl acetate (120 ml) and water (20 ml, adjusted to pH3 with dil. HCl) with stirring. The ethyl acetate layer was separated, washed successively with water (20 ml, adjusted to pH 3 with dil. HCl), 10% aqueous K2HPO4 solution (20 ml) twice, and saturated saline water (20 ml), drived over MgSO4, concentrated in vacuo, and the residue was added dropwise to petroleum ether. The formed crystals were filtered and dried in vacuo to give the title compound (325 mg). This product was found to contain the Δ2 isomer.

reactant | 1-Bromoethylethyl carbonate | 472 mg | C(OC(C)C(C)Br)([O-])=O
reactant | sodium 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-(3-methyl-1,2,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 536 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NC(=NS2)C)C(=O)[O-])C1=O)\C=1N=CSC1.[Na+]
reactant | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 20 ml, pH3 | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonyloxyethyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-(3-methyl-1,2,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 325 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NC(=NS2)C)C(=O)OC(C)OC(=O)OCC)C1=O)\C=1N=CSC1 | C22H24N6O8S4
